US04010184
To a suspension of 2.8 g of 5-(3,4-dichlorophenyl)-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine in 50 ml of pyridine is added 1.3 g of dimethylcarbamoyl chloride, and stirred for 24 hours at 60° C. Then pyridine is evaporated under reduced pressure. To the residue is added acetone to crystallize. The crude crystals obtained are recrystallized from ethanol to give 1.3 g of 5-(3,4-dichlorophenyl)-7-ethyl-1-dimethylcarbamoyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride as pale yellow crystals, melting at 219°-221° C with decomposition.

reactant | 5-(3,4-dichlorophenyl)-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine | 2.8 g | ClC=1C=C(C=CC1Cl)C=1C2=C(NCCN1)SC(=C2)CC | C15H14Cl2N2S
reactant | dimethylcarbamoyl chloride | 1.3 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 5-(3,4-dichlorophenyl)-7-ethyl-1-dimethylcarbamoyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride | 1.3 g | Cl.ClC=1C=C(C=CC1Cl)C=1C2=C(N(CCN1)C(N(C)C)=O)SC(=C2)CC | InChI=1S/C18H19Cl2N3OS.ClH/c1-4-12-10-13-16(11-5-6-14(19)15(20)9-11)21-7-8-23(17(13)25-12)18(24)22(2)3;/h5-6,9-10H,4,7-8H2,1-3H3;1H
